US07253194B2
[2-(1-Benzyl-1H-indol-3-yl)-1-formyl-ethyl]-carbamic acid tert-butyl ester (9)
A suspension of LiAlH4 (143 mg, 3.76 mmol) in THF (5 mL) was added over 10 min to a solution of [2-(1-benzyl-2-methyl-2,3-dihydro-1H-indol-3-yl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester (2 g, 4.32 mmol) in THF (35 mL) at −20° C. The reduction was complete in 15 min (silica gel, 50% EtOAc/petroleum ether, Rf 0.76). Saturated sodium potassium tartrate (10 mL) was added, and the solvent removed. Water was added and the residue extracted with Et2O. The Et2O was washed with brine, dried and filtered. Removal of the solvent gave the title compound (1.204 g, 93%). 1H NMR (CDCl3) δ 13C NMR (CDCl3) δ 200.3, 155.5, 137.3, 136.6, 128.7, 128.1, 127.6, 127.0, 126.7, 122.1, 119.5, 119.0, 109.8, 109.1, 79.9, 60.2, 49.9, 28.3, 25.2,

reactant | LiAlH4 | 3.76 mmol, 143 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | [2-(1-benzyl-2-methyl-2,3-dihydro-1H-indol-3-yl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester | 4.32 mmol, 2 g | C(C)(C)(C)OC(NC(CC1C(N(C2=CC=CC=C12)CC1=CC=CC=C1)C)C(N(C)OC)=O)=O | C26H35N3O4
reactant | sodium potassium tartrate | 10 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | [2-(1-Benzyl-1H-indol-3-yl)-1-formyl-ethyl]-carbamic acid tert-butyl ester | 1.204 g, 93% | C(C)(C)(C)OC(NC(CC1=CN(C2=CC=CC=C12)CC1=CC=CC=C1)C=O)=O | C23H26N2O3
